US08309580B2
(9) 3-({[4-(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methoxy)phenyl]carbonyl}amino)propanoic acid
To a mixture of 4-(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methoxy)benzoic acid (251 mg) synthesized above, ethyl β-alaninate hydrochloride (94.8 mg), 1-hydroxybenzotriazole monohydrate (94.5 mg), triethylamine (86.0 μL) and N,N-dimethylformamide (10 mL) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (118 mg), and the mixture was stirred at room temperature for 3 hr. Saturated aqueous ammonium chloride solution was added to quench the reaction, and the mixture was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane to ethyl acetate:hexane=2:3, volume ratio) to give a colorless oil. To a mixture of the obtained oil, tetrahydrofuran (5 mL) and ethanol (5 mL) was added 1N aqueous sodium hydroxide solution (2 mL), and the mixture was stirred at room temperature for 1 hr. 1N Hydrochloric acid (2.5 mL) was added to the reaction mixture, the organic solvent was evaporated under reduced pressure, and the mixture was extracted with ethyl acetate. The extract was washed with water and brine, dried over magnesium sulfate and concentrated under reduced pressure to give a white solid. The solid was recrystallized from ethyl acetate-hexane to give the title compound (117 mg, 40%) as a colorless crystal.

reactant | 4-(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methoxy)benzoic acid | 251 mg | C1(CCCCC1)C(OC1=CC=C(C(=O)O)C=C1)C1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)CC | C27H27F3O3S
reactant | ethyl β-alaninate hydrochloride | 94.8 mg | Cl.NCCC(=O)OCC
reactant | 1-hydroxybenzotriazole monohydrate | 94.5 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 118 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 2.5 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 86.0 μL | C(C)N(CC)CC | C6H15N
product | 3-({[4-(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methoxy)phenyl]carbonyl}amino)propanoic acid | 117 mg, 40% | C1(CCCCC1)C(OC1=CC=C(C=C1)C(=O)NCCC(=O)O)C1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)CC | C30H32F3NO4S
